US07247639B2
By the method of Example 2, phenylacetic acid is reacted with 5,6-diamino-1-[4-(4-nitrophenyl)butyl]-3-propyluracil to yield 8-benzyl-1-propyl-3-[4-(4-nitrophenyl)butyl]xanthine. In turn, 5,6-diamino-3-propyl-1-[4-(4-nitroyphenyl)butyl]-3-uracil is made by the synthetic methods of Example 1, starting with n-propyl isocyanate and 4-(4-nitrophenyl)butylamine. By the methods of Example 3 and Example 4,8-benzyl-3-[4-(4-nitrophenyl)butyl]-1-propylxanthine is alkylated with a mixture of 1,2-dichloroethane and 2-(ethylamino)ethanol, to afford 8-benzyl-7-[2-ethyl(2-hydroxyethyl)amino]ethyl-3-[4-(4-nitrophenyl)butyl]-1-propylxanthine, which, in turn, is reduced with hydrazine hydrate or hydrogen gas in the presence of a palladium catalyst to yield 3-[4-(4-aminophenyl)butyl]-8-benzyl-7-[2-ethyl(2-hydroxyethyl)amino]ethyl-1-propylxanthine free base. The corresponding dihydrochloride salt is then made on exposure to an excess of hydrogen chloride in solution.

reactant | phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 5,6-diamino-1-[4-(4-nitrophenyl)butyl]-3-propyluracil | NC=1C(N(C(N(C1N)CCCCC1=CC=C(C=C1)[N+](=O)[O-])=O)CCC)=O | C17H23N5O4
product | 8-benzyl-1-propyl-3-[4-(4-nitrophenyl)butyl]xanthine | C(C1=CC=CC=C1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCCCC1=CC=C(C=C1)[N+](=O)[O-] | C25H27N5O4
